US04698446
In a manner analogous to that described hereinabove, 1 mol of nitroethane is added slowly to 2 mols of isopropylamine to form the salt intermediate, and thereafter 2 mols of paraformaldehyde are slowly added to the salt with stirring which is continued for 4 hr. The conversion of the nitroethane to 2-nitro-2-methyl-1,3-di(isopropylamino)propane is in excess of 90 mol %. The reaction mixture is then diluted with 250 ml of i-PrOH and hydrogenated in a manner analogous to that described hereinabove, to yield 2-amino-2-methyl-1,3-di(isopropylamino)propane the conversion of which is in excess of 90 mol % based on the nitroethane charged.

reactant | nitroethane | 1 mol | [N+](=O)([O-])CC | C2H5NO2
reactant | isopropylamine | 2 mols | C(C)(C)N | C3H9N
reactant | paraformaldehyde | 2 mols | C=O | CH2O
reactant | 2-nitro-2-methyl-1,3-di(isopropylamino)propane | [N+](=O)([O-])C(CNC(C)C)(CNC(C)C)C | C10H23N3O2
solvent | i-PrOH | 250 ml | CC(C)O | C3H8O
product | 2-amino-2-methyl-1,3-di(isopropylamino)propane | NC(CNC(C)C)(CNC(C)C)C | C10H25N3
